US08957080B2
Into a 10 mL sealed tube, was placed a solution of 3-[(3R)-3-[4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile (150 mg, 0.31 mmol, 1.00 equiv) in methanol (5 mL), piperidine (78 mg, 0.92 mmol, 3.0 equiv), and cyclopropanecarbaldehyde (64 mg, 0.91 mmol, 3.0 equiv). The resulting solution was stirred for 12 h at 25° C. and then concentrated under vacuum. The residue was diluted with 10 mL of dichloromethane, and the solution was washed with saturated aqueous ammonium chloride, water and brine. The organics were dried over anhydrous sodium sulfate and concentrated. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (20/1) to give 36 mg (21%) of 2-[[(3R)-3-[4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]carbonyl]-3-cyclopropylprop-2-enenitrile as a white solid.

reactant | 3-[(3R)-3-[4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.31 mmol, 150 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2F)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H21F2N7O2
reactant | piperidine | 0.92 mmol, 78 mg, 3.0 equiv | N1CCCCC1 | C5H11N
reactant | cyclopropanecarbaldehyde | 0.91 mmol, 64 mg, 3.0 equiv | C1(CC1)C=O | C4H6O
solvent | methanol | 5 mL | CO | CH4O
product | 2-[[(3R)-3-[4-amino-3-[4-(2,6-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]carbonyl]-3-cyclopropylprop-2-enenitrile | 36 mg, 21% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2F)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C29H25F2N7O2
